US06255494B1
Preparation of (RS) 2-(4-chlorophenoxymethyl)-4-hydroxy-1-[3-[1-(t-butoxycarbonyl)piperidin-3-yl]propyl]-benzimidazole
A solution of (RS) 2-(4-chlorophenoxymethyl)-4-benzyloxy-1-[3-[1-(t-butoxycarbonyl)piperidin-3-yl]propyl]-benzimidazole (245 mg, 0.42 mmol, 1.0 eq) in ethyl acetate (4.2 ml) was degassed and then treated with 5% palladium on carbon (250 mg). The resulting mixture was stirred under a hydrogen atmosphere. The reaction mixture was then filtered through a CELITE™ cake layer. The catalyst was washed thoroughly with ethyl acetate and ethanol. The filtrate was condensed on a rotoevaporator to yield the desired title product in 78% yield.

reactant | (RS) 2-(4-chlorophenoxymethyl)-4-benzyloxy-1-[3-[1-(t-butoxycarbonyl)piperidin-3-yl]propyl]-benzimidazole | 0.42 mmol, 245 mg, 1.0 eq | ClC1=CC=C(OCC2=NC3=C(N2CCCC2CN(CCC2)C(=O)OC(C)(C)C)C=CC=C3OCC3=CC=CC=C3)C=C1 | C34H40ClN3O4
solvent | ethyl acetate | 4.2 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 250 mg | [Pd] | Pd
product | (RS) 2-(4-chlorophenoxymethyl)-4-hydroxy-1-[3-[1-(t-butoxycarbonyl)piperidin-3-yl]propyl]-benzimidazole | 78% yield | ClC1=CC=C(OCC2=NC3=C(N2CCCC2CN(CCC2)C(=O)OC(C)(C)C)C=CC=C3O)C=C1 | C27H34ClN3O4
